US06362201B1
1-(N-Methyl-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine
To a solution of 0.015 g (0.06 mmol) of 18-crown-6 and 0.060 mL (0.06 mmol) of KOtBu (1M in THF) in 2 mL of THF was added 0.15 g (0.34 mmol) of 1-(7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine and the mixture was stirred for 15 min after which 0.0062 mL (0.1 mmol) methyl iodide was added. After 2 h another 0.005 mL of methyl iodide was added and the reaction mixture was stirred for 1 h. The reaction mixture was partitioned between ethyl acetate and sat'd NaHCO3 solution. The organic fraction was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chomatography (silica, Waters RCM 8×10 Novapak) (acetone:hexanes, 1:5) to give the title compound. 1H NMR (CD3OD) d (key peaks) 7.58 (m, 2H), 7.15-6.92 (m, 5H), 7.39 (m, 1H), 6.53 (m, 1H), 3.80 (s, 3H), 0.06 (m, 5H); Mass Spectrum (CI) m/e=460 (M+1).

reactant | 18-crown-6 | 0.06 mmol, 0.015 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KOtBu | 0.06 mmol, 1M, 0.060 mL | CC(C)(C)[O-].[K+]
reactant | 1-(7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.34 mmol, 0.15 g | N1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H32FN3O
reactant | methyl iodide | 0.1 mmol, 0.0062 mL | CI | CH3I
reactant | methyl iodide | 0.005 mL | CI | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(N-Methyl-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | CN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C29H34FN3O
